US05556977
iso-Propyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetate
iso-Propyl 4-bromoacetylphenoxyacetate (6.3 g) was added to a stirred, cooled (4° C.) solution of 1-(4-pyridyl)piperazine (6.5 g) in acetonitrile (225 ml). Stirring was continued for 1 hour at 4° C., then overnight at ambient temperature when the precipitated solid was removed. The liltrate was evaporated in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated. Purification by flash chromatography on silica, eluting firstly with 0 to 10% v/v methanol/dichloromethane and then toluene/ethyl acetate/.880 ammonium hydroxide/ethanol (60:20:10:35 v/v/v/v), gave a cream solid. Recrystallisation from iso-propanol gave the title compound, 2.1 g: m.p. 121°-122° C.; NMR (d6DMSO) δ8.14 (2H, d), 7.98 (2H, d), 7.02 (2H, d), 6.80 (2H, d), 4.99 (1H, m), 4.85 (2H, s), 3.84 (2H, s), 3.33 (4H, t), 2.62 (4H, t), 1.22 (6H, d); m/e 398 (M+H)+ ; calculated for C22H27N304: C, 66.5; H, 6.9; N, 10.6. found: C, 65.8; H, 6.8; N, 10.4%.

reactant | iso-Propyl 4-bromoacetylphenoxyacetate | 6.3 g | BrCC(=O)C1=CC=C(OCC(=O)OC(C)C)C=C1 | C13H15BrO4
reactant | 1-(4-pyridyl)piperazine | 6.5 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 225 ml | C(C)#N | C2H3N
product | iso-Propyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetate | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(OCC(=O)OC(C)C)C=C1 | C22H27N3O4
